US08871756B2
N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
A mixture solution of 4-(4-chloro-6-methylquinolin-2-yl)-8-phenoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (167.0 mg, 0.36 mmol), (3-(aminomethyl)-N,N-dibenzyloxetan-3-amine (609.0 mg, 2.16 mmol), 1,1′-bis(diphenylphosphino)-ferrocenedichloropalladium(II) (15.0 mg, 0.02 mmol), 1,1′-bis(diphenylphosphino)-ferrocene (11.2 mg, 0.02 mmol) and sodium tert-butoxide (75.0 mg, 0.72 mmol) in 1,4-dioxane (2.0 mL) was heated with stirring at 120° C. for 2 hours under microwave irridiation. After being cooled to room temperature, the reaction mixture was extracted with ethyl acetate (100 mL). The organic layer was washed with brine (50 mL×2), dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was purified by ISCO combi-flash chromatography (gradient elution, 20-60% ethyl acetate in petroleum ether) to afford 134.6 mg of the desired product as a light yellow solid (yield was 52.6%). MS obsd. (ESI+) [(M+H)+] 711.

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-8-phenoxy-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | 0.36 mmol, 167.0 mg | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC(=C2)OC2=CC=CC=C2)(=O)=O | C25H21ClN2O3S
reactant | 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine | 2.16 mmol, 609.0 mg | NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2O
reactant | sodium tert-butoxide | 0.72 mmol, 75.0 mg | CC(C)([O-])C.[Na+]
solvent | 1,4-dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | 0.02 mmol, 11.2 mg | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | N-{[3-(Dibenzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-8-phenoxy-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | 134.6 mg, yield was 52.6% | C(C1=CC=CC=C1)N(C1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC(=C2)OC2=CC=CC=C2)(=O)=O)CC2=CC=CC=C2 | C43H42N4O4S
